US07405219B2
2-(5-Amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-1-phenylethanone (Example 211)
A solution of 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (101 mg, 0.5 mmol) in DMF (2 mL) was treated with 2-bromoacetophenone (100 mg, 0.5 mmol) and triethylamine (105 μL, 0.75 mmol), stirred at room temperature for 3 days, diluted with water (100 mL) and filtered. The resulting solid was purified by chromatography [SiO2; Hexane:EtOAc, (3:1 to 1:1)] to give the title compound (20 mg, 13%) as a yellow solid.

reactant | 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 0.5 mmol, 101 mg | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N=NN2 | C8H6N6O
reactant | 2-bromoacetophenone | 0.5 mmol, 100 mg | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | triethylamine | 0.75 mmol, 105 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 2-(5-Amino-7-(2-furyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-yl)-1-phenylethanone | 20 mg, 13% | NC=1N=C(C2=C(N1)N(N=N2)CC(=O)C2=CC=CC=C2)C=2OC=CC2 | C16H12N6O2
